US09353096B2
(R)-tert-butyl 2-(4-chloro-3-fluorophenyl)morpholine-4-carboxylate (990 mg) was dissolved in 2 mL of dichloromethane and TFA (2 mL) was added. The solution was stirred at room temperature for 2 h. Solvents were evaporated. The residue was extracted with dichloromethane and 1N NaOH solution. The organic layer was dried and concentrated. The residue was dried in vacuum to afford (R)-2-(4-chloro-3-fluorophenyl)morpholine an oil (669 mg). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.11 (br. s., 1H) 2.72 (dd, J=12.38, 10.36 Hz, 1H) 2.86-3.04 (m, 2H) 3.07 (dd, J=12.38, 2.53 Hz, 1H) 3.79 (td, J=11.37, 3.03 Hz, 1H) 4.05 (dd, J=11.49, 2.40 Hz, 1H) 4.48 (dd, J=10.36, 2.53 Hz, 1H) 7.02-7.13 (m, 1H) 7.15-7.23 (m, 1H) 7.33-7.42 (m, 1H).

reactant | (R)-tert-butyl 2-(4-chloro-3-fluorophenyl)morpholine-4-carboxylate | 990 mg | ClC1=C(C=C(C=C1)[C@@H]1CN(CCO1)C(=O)OC(C)(C)C)F | C15H19ClFNO3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (R)-2-(4-chloro-3-fluorophenyl)morpholine | ClC1=C(C=C(C=C1)[C@@H]1CNCCO1)F | C10H11ClFNO
